### PR TITLE
[Merged by Bors] - feat: construct a smooth function on a manifold equal to one on a given closed set and with given support

### PR DESCRIPTION
**Pull request by sgouezel**
---

- [x] depends on: #6069 
- [x] depends on: #6070

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 1]
```diff
@@ -512,6 +531,18 @@ theorem exists_isSubordinate {s : Set M} (hs : IsClosed s) (U : ι → Set M) (h
     exact ⟨f, f.smooth, hf⟩
 #align smooth_partition_of_unity.exists_is_subordinate SmoothPartitionOfUnity.exists_isSubordinate
 
+theorem exists_isSubordinate_chartAt_source_of_isClosed {s : Set M} (hs : IsClosed s) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean:534]: How about:
```suggestion
theorem IsClosed.exists_isSubordinate_chartAt_source {s : Set M} (hs : IsClosed s) :
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 2]
```diff
@@ -590,3 +621,112 @@ theorem Metric.exists_smooth_forall_closedBall_subset {M} [MetricSpace M] [Chart
   rw [← Metric.emetric_closedBall (hδ0 _).le]
   exact hδ i x hx
 #align metric.exists_smooth_forall_closed_ball_subset Metric.exists_smooth_forall_closedBall_subset
+
+lemma exists_smooth_support_eq_of_model {s : Set H} (hs : IsOpen s) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean:625]: When I see `_of_model` I look for a hypothesis. How about:
```suggestion
lemma IsOpen.exists_smooth_support_eq' {s : Set H} (hs : IsOpen s) :
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 3]
```diff
@@ -590,3 +621,112 @@ theorem Metric.exists_smooth_forall_closedBall_subset {M} [MetricSpace M] [Chart
...
+  rcases h's.exists_smooth_support_eq with ⟨f, f_supp, f_diff, f_range⟩
+  refine ⟨f ∘ I, ?_, ?_, ?_⟩
+  · rw [support_comp_eq_preimage, f_supp, ← preimage_comp]
+    simp only [ModelWithCorners.symm_comp_self, preimage_id_eq, id_eq]
+  · exact f_diff.comp_contMDiff contMDiff_model
+  · exact Subset.trans (range_comp_subset_range _ _) f_range
+
+/-- Given an open set in a finite-dimensional real manifold, there exists a nonnegative smooth
+function with support equal to `s`. -/
+theorem exists_smooth_support_eq (hs : IsOpen s) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean:637]: Again I think it would be nice to enable dot notation but I'm less confident of what the name should be. Maybe something like:
```suggestion
theorem IsOpen.exists_mSmooth_support_eq (hs : IsOpen s) :
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Just minor (optional) naming suggestions.

bors d+
